US07501430B2
3a: Preparation of 1-(4-fluorophenyl)-2-(2-imino-1,3-oxazol-3(2H)-yl)ethanone hydrobromide
A solution of 2-amino-oxazole (14.9 g, 0.179 mol) in acetonitrile (100 ml) was slowly added over a period of 20 minutes to a solution of 2-bromo-1-(4-fluorophenyl)ethanone (57.6 g, 0.36 mol) in THF (150 ml). The reaction mixture was stirred at room temperature for 24 hrs then cooled to 0° C. A precipitate formed and was filtered off. The solid was washed with three portions of 30 ml of cold acetonitrile and dried at 50° C. under vacuum, yielding 38.75 g (72%) of an off-white solid. M.p.=218-221° C.; 300 MHz 1H NMR (DMSO-d6) δ: 9.80 (br. s, 1H), 8.16-8.11 (m, 2H), 8.00 (s, 1H), 7.62 (s, 1H), 7.52-7.46 (m, 2H), 5.80 (s, 2H); LCMS: 221 [M+H]. Calc. for C11H9N2O2F.1.05HBr.0.14ACN: C, 43.58; H, 3.39; N, 9.64. Found C, 43.63; H, 3.38; N, 9.65.

reactant | 2-amino-oxazole | 0.179 mol, 14.9 g | NC=1OC=CN1 | C3H4N2O
reactant | 2-bromo-1-(4-fluorophenyl)ethanone | 0.36 mol, 57.6 g | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 1-(4-fluorophenyl)-2-(2-imino-1,3-oxazol-3(2H)-yl)ethanone hydrobromide | 38.75 g, 72% | Br.FC1=CC=C(C=C1)C(CN1C(OC=C1)=N)=O | InChI=1S/C11H9FN2O2.BrH/c12-9-3-1-8(2-4-9)10(15)7-14-5-6-16-11(14)13;/h1-6,13H,7H2;1H
